US07799798B2
D. Synthesis of 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one
Following the procedure described in PREPARATION 2E, and making non-critical variations using 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one to replace 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-b]pyridin-2-one, the title compound was obtained: MS (ES+) m/z 371.4 (M+1).

reactant | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=C1C=NC=C2)CCCCC)=O | C19H20N2O4
reactant | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-b]pyridin-2-one | OC=1C(=CC2=C(OCO2)C1)C1C(N(C=2C1=NC=CC2)CCCCC)=O | C19H20N2O4
product | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=C1C=NC=C2)CCCCC)=O)CO | C20H22N2O5
